US07973051B2
i) Acetic acid 2-(3-methyl-thiophen-2-yl)-ethyl ester
A solution of 2-bromo-3-methylthiophene (35.4 g, 200 mmol, ALFA) in diethyl ether (200 mL) was added drop wise to Mg turnings (5.35 g, 220 mmol) over ˜30 min at such a rate as to maintain gentle reflux (at the beginning the reaction was initiated with 2 drops of Br2). After refluxing for 1 h, 2.0M ethylene oxide in THF (150 mL, 300 mmol) was added drop wise at 0° C. over 1 h and stirring was continued at rt for 20 h. After cooling to 0° C. acetyl chloride (22.8 mL, 320 mmol) was added drop wise at 0° C. over 15 min an the suspension was stirred at rt for 18 h. The reaction mixture was diluted with diethyl ether (200 mL) and washed with 1M HCl (200 mL) and 10% brine (200 mL). The aqueous layers were extracted with diethyl ether (100 mL) and the combined organic layers were dried (Na2SO4) and evaporated affording 49 g brownish oil which was purified by distillation affording 32.8 g (89.0%, GC 96.4%) colorless oil, bp ˜120° C./10 mbar.

reactant | 2-bromo-3-methylthiophene | 200 mmol, 35.4 g | BrC=1SC=CC1C | C5H5BrS
reactant | ethylene oxide | 2.0M | C1CO1 | C2H4O
reactant | THF | 300 mmol, 150 mL | C1CCOC1 | C4H8O
reactant | acetyl chloride | 320 mmol, 22.8 mL | C(C)(=O)Cl | C2H3ClO
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
catalyst | Br2 | 2 drops | BrBr | Br2
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | Acetic acid 2-(3-methyl-thiophen-2-yl)-ethyl ester | 49 g | CC1=C(SC=C1)CCOC(C)=O | C9H12O2S
